US05294612
A solution of 1,3-dimethyl-6-(4-pyridyl)-pyrazolo[3,4-d]-pyrimidin-4-amine (1.99 g, 8.3 mmol) in 50% aqueous sulfuric acid (50 ml) at 0° C. was stirred for 20 minutes and sodium nitrite (5.7 g, 83.0 mmol) in water (25 ml) was added dropwise over 1 hour. The reaction mixture was allowed to warm to room temperature and was stirred for 24 hours. The mixture was poured into ice-water (500 ml) and a white solid was collected by filtration and washed with water, ethanol and finally ether. The solid residue was stirred in 15% KHCO3 (150 ml) for 20 minutes and the product was collected by filtration and washed with water, then ethanol and finally ether. The product was recrystallized from DMF to afford 1.5 g (76%) of 1,3-dimethyl-6-(4-pyridyl)-pyrazolo[3,4-d]-pyrimidin-4-one as a white solid, m.p. >301° C. when dried for 18 hours at 115° C. in high vacuum.

reactant | 1,3-dimethyl-6-(4-pyridyl)-pyrazolo[3,4-d]-pyrimidin-4-amine | 8.3 mmol, 1.99 g | CN1N=C(C=2C1=NC(=NC2N)C2=CC=NC=C2)C | C12H12N6
reactant | sodium nitrite | 83.0 mmol, 5.7 g | N(=O)[O-].[Na+]
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 25 ml | O | H2O
product | 1,3-dimethyl-6-(4-pyridyl)-pyrazolo[3,4-d]-pyrimidin-4-one | 1.5 g, 76% | CN1NC(=C2C1=NC(=NC2=O)C2=CC=NC=C2)C | C12H11N5O
